US04472433
Preparation of 2-oxo-5-chloro-7-(2-chlorophenoxy)indoline
Ethyl 2-[2-amino-3-(2-chlorophenoxy)phenyl]acetate (1.50 g.), N-chlorosuccinimide (700 mg.) and dioxane (30 ml.) were treated in a similar manner to that of the Preparation 31 to give crystals of the captioned compound (0.50 g.), mp 196° to 198° C.

reactant | Ethyl 2-[2-amino-3-(2-chlorophenoxy)phenyl]acetate | 1.50 g | NC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)OCC | C16H16ClNO3
reactant | N-chlorosuccinimide | 700 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-oxo-5-chloro-7-(2-chlorophenoxy)indoline | O=C1NC2=C(C=C(C=C2C1)Cl)OC1=C(C=CC=C1)Cl | C14H9Cl2NO2
